US04119669
Preparation of N-(1-Ethylpropyl)-3,4-Xylidine
A solution of 3,4-xylidine (1.2 g., 0.01 mole) and diethyl ketone (5 ml.) in methanol (20 ml.) is stirred at room temperature in the presence of sodium cyanoborohydride (1.1 g.) and 3A molecular sieves (3.0 g.). The pH is monitored each half hour and maintained at 6 by adding acetic acid in 5 drop portions as required. After 7 hours, the sieves are removed by filtration and the filtrate is diluted with water (100 ml.) and then acidified with hydrochloric acid. The solution is then basified with solid potassium carbonate and extracted with ethyl ether. The ether solution is dried and then evaporated leaving the desired product as a residual oil in 97.5% yield and in 93% purity as determined by gas-liquid chromatography. The compound had a boiling point of 80° C. at a pressure of 0.1 mm. Its elemental analysis is as follows:

reactant | 3,4-xylidine | 0.01 mole, 1.2 g | NC1=CC(=C(C=C1)C)C | C8H11N
reactant | diethyl ketone | 5 ml | C(C)C(=O)CC | C5H10O
reactant | sodium cyanoborohydride | 1.1 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
product | N-(1-Ethylpropyl)-3,4-Xylidine | 97.5% yield | C(C)C(CC)NC1=CC(=C(C=C1)C)C | C13H21N
